US08710043B2
To a solution of 3-(trifluoromethyl)picolinaldehyde (Frontier Scientific, 9.80 g, 56.0 mmol) and DCM (50 mL) was added (S)-2-methylpropane-2-sulfinamide (AK Scientific, 10.3 g, 85.0 mmol) and copper(II) sulfate (35.3 g, 221 mmol). After 1.5 h at rt, the reaction was filtered through a pad of Celite® brand filter agent and rinsed with DCM. The filtrate was concentrated in vacuo to give a dark green oil. The oil thus obtained was loaded onto a silica gel column and eluted with 30% EtOAc in hexanes to give (S,E)-2-methyl-N-((3-(trifluoro-methyl)pyridin-2-yl)methylene)propane-2-sulfinamide, as a golden oil. 1H NMR (δ ppm, CDCl3, 300 MHz): 9.02 (d, J=4.3 Hz, 1H), 8.70 (d, J=1.3 Hz, 1H), 8.38 (d, J=7.7 Hz, 1H), 7.79 (dd, J=7.9 & 4.8 Hz, 1H), 1.18 (s, 9H). MS (ESI pos. ion) m/z: 279.1 (M+H).

reactant | 3-(trifluoromethyl)picolinaldehyde | 56.0 mmol, 9.80 g | FC(C=1C(=NC=CC1)C=O)(F)F | C7H4F3NO
reactant | (S)-2-methylpropane-2-sulfinamide | 85.0 mmol, 10.3 g | CC(C)(C)[S@](=O)N | C4H11NOS
catalyst | copper(II) sulfate | 221 mmol, 35.3 g | S(=O)(=O)([O-])[O-].[Cu+2]
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | (S,E)-2-methyl-N-((3-(trifluoro-methyl)pyridin-2-yl)methylene)propane-2-sulfinamide | CC(C)(C)[S@](=O)/N=C/C1=NC=CC=C1C(F)(F)F | C11H13F3N2OS
